US07557221B2
A solution of [(S)-1-(5-iodo-1H-benzoimidazol-2-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester (100 mg, 0.216 mmol), copper (I) iodide (8 mg, 0.043 mmol) and dichlorobis(triphenylphosphine)palladium (II) (15 mg, 0.022 mmol) in N,N-dimethylformamide (7 mL) in a sealed tube apparatus was degassed with dry nitrogen. The yellow mixture was stirred at room temperature for an additional 5 minutes, then triethylamine (90 μL, 0.648 mmol) and trimethylsilylacetylene (92 μL, 0.648 mmol) were added, and the resulting solution was degassed once more After stirring the reaction mixture for 5 minutes at room temperature a deep red to black solution resulted. This mixture was left to stir overnight at room temperature then poured into a separatory funnel containing water (50 mL) and ethyl acetate (50 mL). The aqueous layer was separated and extracted twice with ethyl acetate (20 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was applied to a silica gel column using dichloromethane (10 mL) and gradient eluted from 10 to 100% v/v ethyl acetate in hexanes to give [(S)-2-phenyl-1-(6-trimethylsilanylethynyl-1H-benzoimidazol-2-yl)-ethyl]-carbamic acid tert-butyl ester (90 mg, 96%).

reactant | [(S)-1-(5-iodo-1H-benzoimidazol-2-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester | 0.216 mmol, 100 mg | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)I)=O | C20H22IN3O2
reactant | triethylamine | 0.648 mmol, 90 μL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 0.648 mmol, 92 μL | C[Si](C)(C)C#C | C5H10Si
reactant | water | 50 mL | O | H2O
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
catalyst | copper (I) iodide | 0.043 mmol, 8 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.022 mmol, 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | [(S)-2-phenyl-1-(6-trimethylsilanylethynyl-1H-benzoimidazol-2-yl)-ethyl]-carbamic acid tert-butyl ester | 90 mg, 96% | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C1=NC2=C(N1)C=C(C=C2)C#C[Si](C)(C)C)=O | C25H31N3O2Si
